US09403810B2
Step 4: 4,4,5,5-Tetramethyl-2-(spiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane
To a stirred solution of spiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate (635 mg, 2.234 mmoL) in dry 1,4-dioxane (15 mL), bis(pinacolato)diboron (Alfa Aesar) (567 mg, 2.234 mmol) was added followed by potassium acetate (Acros) (438 mg, 4.47 mmoL) and PdCl2(dppf).CH2Cl2 adduct (Alfa Aesar) (54.7 mg, 0.067 mmoL). The reaction mixture was flushed with nitrogen and heated to 80° C. for 16 hours. The reaction mixture was cooled to room temperature and filtered through Celite®, rinsing with TBME. The filtrate was concentrated under reduced pressure and the residue partitioned between EtOAc (50 mL) and water (50 mL). The organic phase was washed with brine (30 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 0-30% EtOAc in iso-hexane afforded the title compound.

reactant | spiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate | 635 mg | FC(S(=O)(=O)OC1=CCC2(CCCC2)CC1)(F)F | C11H15F3O3S
reactant | bis(pinacolato)diboron | 2.234 mmol, 567 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 438 mg | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 54.7 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4,4,5,5-Tetramethyl-2-(spiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C1=CCC2(CCCC2)CC1)C | C16H27BO2
